US08067445B2
Step 9: 3-Benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea
3-Benzyl-1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-urea (2.0 g, 4.8 mmol), bis(pinacolato)diboron (1.7 g, 7.2 mmol), (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.40 g, 0.48 mmol), and potassium acetate (1.4 g, 14.4 mmol) were combined in 1,4-dioxane (20 mL) under N2. The solution was purged with N2 for 10 minutes, and the reaction was heated to 80° C. for 3 hours Once no starting material was seen by analytical LCMS, the mixture was worked up with EtOAc and brine, and the crude material was purified by silica gel chromatography to give the title compound.

reactant | 3-Benzyl-1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-urea | 4.8 mmol, 2.0 g | C(C1=CC=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C18H18BrF3N2O
reactant | bis(pinacolato)diboron | 7.2 mmol, 1.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 14.4 mmol, 1.4 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.48 mmol, 0.40 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-Benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea | C(C1=CC=CC=C1)NC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H30BF3N2O3
